US06162944
Into a 200-ml four-necked flask provided with a reflux condenser, a thermometer and a stirrer were fed 7.96 g (0.05 mol) of 3,4-difluoro-2-methoxyaniline, 40 g (0.67 mol) of acetic acid and 100 ml of ethanol. To the resulting mixture being stirred at room temperature was dropwise added 9.24 g (0.053 mol) of 1-ethoxy-1-trimethylsilyloxycyclopropane. The resulting mixture was placed on an oil bath and refluxed at 80° C. for 3 hours with stirring, in a nitrogen current. The resulting reaction mixture was concentrated under aspirator vacuum by the use of a rotary evaporator. Lastly, the acetic acid remaining in the resulting residue was removed by the use of a vacuum pump to obtain 11.5 g of an oily substance. This oily substance was subjected to vacuum distillation to obtain 10.1 g (yield: 83.0%) of N-(1-ethoxy)cyclopropyl-3,4-difluoro-2-methoxyaniline.

reactant | 3,4-difluoro-2-methoxyaniline | 0.05 mol, 7.96 g | FC=1C(=C(N)C=CC1F)OC | C7H7F2NO
reactant | acetic acid | 0.67 mol, 40 g | C(C)(=O)O | C2H4O2
reactant | 1-ethoxy-1-trimethylsilyloxycyclopropane | 0.053 mol, 9.24 g | C(C)OC1(CC1)O[Si](C)(C)C | C8H18O2Si
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | N-(1-ethoxy)cyclopropyl-3,4-difluoro-2-methoxyaniline | 10.1 g, yield: 83.0% | C(C)ON(C1=C(C(=C(C=C1)F)F)OC)C1CC1 | C12H15F2NO2
